US07410986B2
To a solution of tert-butyl 2-amino-4-(4-amino-3-hydroxyphenyl)-6-[2-[(4-methoxybenzyl)oxy]-6-(2-methylbutoxy)phenyl]nicotinate (2.46 g, 4.21 mmol) was added acetic anhydride (0.44 mL, 4.63 mmol). The mixture was stirred at room temperature for overnight. The mixture was diluted with ethyl acetate and washed with saturated aqueous NaHCO3 and brine. The organic phase was dried over Na2SO4, filtered and concentrated under reduced pressure to give tert-butyl 4-[4-(acetylamino)-3-hydroxyphenyl]-2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}nicotinate. (2.65 g, 100%); LC-MS (M/z=626, M+1)

reactant | tert-butyl 2-amino-4-(4-amino-3-hydroxyphenyl)-6-[2-[(4-methoxybenzyl)oxy]-6-(2-methylbutoxy)phenyl]nicotinate | 4.21 mmol, 2.46 g | NC1=C(C(=O)OC(C)(C)C)C(=CC(=N1)C1=C(C=CC=C1OCC(CC)C)OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)N)O | C35H41N3O6
reactant | acetic anhydride | 4.63 mmol, 0.44 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[4-(acetylamino)-3-hydroxyphenyl]-2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}nicotinate | C(C)(=O)NC1=C(C=C(C=C1)C1=CC(=NC(=C1C(=O)OC(C)(C)C)N)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1)O | C36H39N3O7
